US07291619B2
1-(2-isopropoxy-phenyl)-piperazine
The title compound was prepared in a manner similar to Preparation 1A except that piperazine was coupled to 1-bromo-2-isopropoxy-benzene. LRMS (ESI+): 221.4 (M+1)

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | 1-bromo-2-isopropoxy-benzene | BrC1=C(C=CC=C1)OC(C)C | C9H11BrO
product | 1-(2-isopropoxy-phenyl)-piperazine | C(C)(C)OC1=C(C=CC=C1)N1CCNCC1 | C13H20N2O
